US03962434
To a solution of 9.4 g. of 3-aminopyridine in 31 ml. of 12N hydrochloric acid and 250 ml. of water at 0° was added in small portions a solution of 7.0 g. of sodium nitrite in 12 ml. of water. After the mixture was stirred 30 minutes at 0°, 2.2 g. of urea was added, and the solution was stirred for 15 minutes. The solution was added in one portion to a mixture of 8.35 g. of N-methylhydroxylamine hydrochloride and 50 g. of sodium acetate in 80 ml. of water at about 0° to 5°C. The mixture was stirred over the weekend at 25°C. The reaction mixture was diluted with water and extracted with ethyl acetate three times. The pooled ethyl acetate extract was dried and concentrated to give a mixture of product and recovered 3-aminopyridine. The crude produce was chromatographed on 500 ml. of silica gel using benzene and ethyl acetate mixtures. Solid 1 -methyl-3-(3-pyridyl)triazene-1-oxide was obtained by concentration of the mixture of benzene and ethyl acetate from chromatographic elution. Recrystallization of the product from benzene by adding hexane gave 3.3 g. of crystals, m.p. 95°-97°C.

reactant | 3-aminopyridine | NC=1C=NC=CC1 | C5H6N2
reactant | hydrochloric acid | 12N | Cl | ClH
reactant | sodium nitrite | N(=O)[O-].[Na+]
reactant | urea | NC(=O)N | CH4N2O
reactant | N-methylhydroxylamine hydrochloride | Cl.CNO
reactant | sodium acetate | C(C)(=O)[O-].[Na+]
solvent | water | O | H2O
product | 1 -methyl-3-(3-pyridyl)triazene-1-oxide | C[N+](=NNC=1C=NC=CC1)[O-] | C6H8N4O
